US08012966B2
4-(3-Chloro-4-fluoro-phenylamino)-5-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]-pyrimidin-6-one as starting materials to give 4-(3-chloro-4-fluoro-phenylamino)-5-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (44 mg, 46.8%) as an orange solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]-pyrimidin-6-one | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
product | 4-(3-chloro-4-fluoro-phenylamino)-5-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 44 mg, 46.8% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC2=C(C=1C(N(CCC1N2)CCN2CCCCC2)=O)C)=O | C28H29ClFN7O2
